**** bandgap reference circuit using self-biase current mirror at ff corner*****

.lib "/home/ruthwika/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice" ff
.global vdd gnd
.temp 27

*** circuit definition ***

*** mosfet definitions self-biased current mirror and output branch
xmp1	net1	net2	vdd	vdd	sky130_fd_pr__pfet_01v8_lvt	l=2	w=5	m=4
xmp2    net2    net2    vdd     vdd     sky130_fd_pr__pfet_01v8_lvt     l=2     w=5    	m=4
xmp3    net3    net2    vdd     vdd     sky130_fd_pr__pfet_01v8_lvt     l=2     w=5     m=4
xmn1    net1    net1    q1      gnd     sky130_fd_pr__nfet_01v8_lvt     l=1     w=5     m=8
xmn2    net2    net1    q2      gnd     sky130_fd_pr__nfet_01v8_lvt     l=1     w=5     m=8

*** start-upcircuit
xmp4    net4    net2    vdd     vdd     sky130_fd_pr__pfet_01v8_lvt     l=2     w=5     m=1
xmp5    net5    net2    net4    vdd     sky130_fd_pr__pfet_01v8_lvt     l=2     w=5     m=1
xmp6    net7    net6    net2    vdd     sky130_fd_pr__pfet_01v8_lvt     l=2     w=5     m=2
xmn3    net6    net6    net8    gnd     sky130_fd_pr__nfet_01v8_lvt     l=7     w=1     m=1
xmn4    net8    net8    gnd     gnd     sky130_fd_pr__nfet_01v8_lvt     l=7     w=1     m=1

*** bjt definition
xqp1	gnd	gnd	qp1		sky130_fd_pr__pnp_05v5_W3p40L3p40	m=1
xqp2    gnd     gnd     qp2          sky130_fd_pr__pnp_05v5_W3p40L3p40       m=8
xqp3    gnd     gnd     qp3          sky130_fd_pr__pnp_05v5_W3p40L3p40       m=1

*** high-poly resistance definition
xra1	ra1	na1	vdd	sky130_fd_pr__res_high_po_1p41     w=1.41  l=7.8
xra2	na1     na2     vdd     sky130_fd_pr__res_high_po_1p41     w=1.41  l=7.8
xra3    na2     qp2     vdd     sky130_fd_pr__res_high_po_1p41     w=1.41  l=7.8
xra4    na2     qp2     vdd     sky130_fd_pr__res_high_po_1p41     w=1.41  l=7.8

xrb1    vref    nb1     vdd     sky130_fd_pr__res_high_po_1p41     w=1.41  l=7.8
xrb2    nb1     nb2     vdd     sky130_fd_pr__res_high_po_1p41     w=1.41  l=7.8
xrb3    nb2     nb3     vdd     sky130_fd_pr__res_high_po_1p41     w=1.41  l=7.8
xrb4    nb3     nb4     vdd     sky130_fd_pr__res_high_po_1p41     w=1.41  l=7.8
xrb5    nb4     nb5     vdd     sky130_fd_pr__res_high_po_1p41     w=1.41  l=7.8
xrb6    nb5     nb6     vdd     sky130_fd_pr__res_high_po_1p41     w=1.41  l=7.8
xrb7    nb6     nb7     vdd     sky130_fd_pr__res_high_po_1p41     w=1.41  l=7.8
xrb8    nb7     nb8     vdd     sky130_fd_pr__res_high_po_1p41     w=1.41  l=7.8
xrb9    nb8     nb9     vdd     sky130_fd_pr__res_high_po_1p41     w=1.41  l=7.8
xrb10   nb9     nb10    vdd     sky130_fd_pr__res_high_po_1p41     w=1.41  l=7.8
xrb11   nb10    nb11    vdd     sky130_fd_pr__res_high_po_1p41     w=1.41  l=7.8
xrb12   nb11    nb12    vdd     sky130_fd_pr__res_high_po_1p41     w=1.41  l=7.8
xrb13   nb12    nb13    vdd     sky130_fd_pr__res_high_po_1p41     w=1.41  l=7.8
xrb14   nb13    nb14    vdd     sky130_fd_pr__res_high_po_1p41     w=1.41  l=7.8
xrb15   nb14    nb15    vdd     sky130_fd_pr__res_high_po_1p41     w=1.41  l=7.8
xrb16   nb15    nb16    vdd     sky130_fd_pr__res_high_po_1p41     w=1.41  l=7.8
xrb17   nb16    qp3   	vdd     sky130_fd_pr__res_high_po_1p41     w=1.41  l=7.8
xrb18   nb16    qp3     vdd     sky130_fd_pr__res_high_po_1p41     w=1.41  l=7.8

*** voltage source for current measurement
vid1	q1	qp1	dc	0
vid2    q2      ra1     dc      0
vid3    net3    vref    dc      0
vid4    net7	net1	dc	0
vid5	net5	net6	dc	0

*** supply voltage
vsup	vdd	gnd	dc 	2
*.dc	vsup	0	3.3	0.3.3
.dc	temp	-40	125	5

*vsup	vdd	gnd	pulse	0	2	10n	1u	1u	1m	100u
*.tran	5n	10u

.control
run

plot v(vdd) v(net1) v(net2) v(qp1) v(ra1) v(qp2) v(vref) v(qp3)
plot vid1#branch vid2#branch vid3#branch vid4#branch vid5#branch

.endc
.end

